2161-01-11 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2161-1-10**] 06:25 PM
   Additional overnight events are noted as follows:
   -Patient received approx 500cc PRBC
   -There were no clinical events of special note since admission.
   -Patient with decreased tremulousness overnight; required only 5
   valium, vomiting has ceased.
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: There are no chamges to the
   medical and family history.
   Review of systems is unchanged from admission except as noted below
   There are no changes to the review of systems.
   Review of systems:
   Flowsheet Data as of  [**2161-1-11**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 99 (98 - 129) bpm
   BP: 129/65(82) {115/56(71) - 154/87(100)} mmHg
   RR: 15 (15 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,270 mL
                                                                  1,339 mL
   PO:
             TF:
   IVF:
                                                                  2,214 mL
                                                                  1,339 mL
   Blood products:
                                                                    556 mL
   Total out:
                                                                    710 mL
                                                                    610 mL
   Urine:
                                                                    710 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,560 mL
                                                                    729 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.48/30/91.[**Numeric Identifier 96**]/25/0
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, JVP flat, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, mild tenderness to deep palpation in pelvic region,
   non-distended, bowel sounds hyperactive, no rebound tenderness or
   guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Rectal: Gross melena on exam in the ER
   Labs / Radiology
   29 K/uL
   9.5 g/dL
   131 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.3 mEq/L
   6 mg/dL
   103 mEq/L
   138 mEq/L
   26.5 %
   3.0 K/uL
        [image002.jpg]
                            [**2161-1-10**]  02:16 PM
                            [**2161-1-10**]  05:56 PM
                            [**2161-1-11**]  12:20 AM
                            [**2161-1-11**]  05:00 AM
   WBC
   6.4
   3.0
   Hct
   23.8
   25.9
   26.5
   Plt
   43
   29
   Cr
   0.7
   0.6
   TCO2
   23
   Glucose
   100
   131
   Other labs: PT / PTT / INR:15.2/27.8/1.3, ALT / AST:23/59, Alk Phos / T
   Bili:181/2.1, Amylase / Lipase:47/, Differential-Neuts:76.4 %,
   Lymph:17.9 %, Mono:5.3 %, Eos:0.4 %, Lactic Acid:1.1 mmol/L,
   Albumin:4.2 g/dL, LDH:164 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 .H/O DEPRESSION
 .H/O ESOPHAGEAL VARICES
 .H/O PORTAL HYPERTENSION
   Assessment and Plan: 49 year old Male, alcoholic cirrhosis, s/p
   multiple admissions for [**First Name4 (NamePattern1) 1856**] [**Last Name (NamePattern1) 116**] tears and esophagitis/gastritis
   who presents from home with one week of severe nausea, vomiting and
   coffee ground emesis.
   #Upper Gastrointestinal Bleeding:  h/o  [**Doctor First Name **] [**Doctor Last Name **] tears and
   esophagitis/gastritis.  Differential diagnosis includes peptic ulcer
   disease, gastritis, AVM, dieulafoy's as well as [**First Name4 (NamePattern1) 1856**] [**Last Name (NamePattern1) 116**] tear,
   esophagitis, gastritis.  Additionally,  h/o esophageal varices and is
   s/p banding.  [**Month (only) 1033**] upper endoscopy did not reveal varices, so
   likely not variceal bleeding. Positive NG lavage in ED. Hematocrit
   bumped up to 26.5 from 23.9.
   - con
t two  20 g and 1 18 g access
   - active type and screen
   - awaiting liver consult for potential upper endoscopy
   - NPO
   - aim to keep hematocrit > 25
   - IVF and blood for MAP > 65, UOP 30 cc/hr
   - IV PPI [**Hospital1 **]
   - con
t ciprofloxacin 400 mg IV BID for SBP prophylaxis
   Acid Base Status:  ABG with respiratory alkalosis.  Anion gap was 26 on
   admission but now normal at 10. Likely corrected secondary metabolic
   contraction alkalosis with hydration, since bicarb corrected
   (previously elevated delta delta suggesting earlier secondary metabolic
   alkalosis--hypochloremic, hypokalemic likely secondary to vomiting.
   Normal lactate. With elevated acetone on admission, suspect starvation
   ketosis in the setting of normal serum glucose.  Negative serum
   toxicology screen, will send urine toxicology.
   -con
t correct hypokalemia PRN and give normal saline for volume
   depletion PRN
   - IVF for ketosis with glucose
   - urine tox screen negative
   - will reasses acid base status after IVF
   Alcoholic Hepatitis: History of ascites, SBP and portal vein
   thrombosis. RUQ ultrasound with evidence of patent flow in portal and
   splenic veins.
   - ciprofloxacin for SBP prophylaxis in the setting of GI bleeding
   - LFT
s elevated, AST above ALT, likely alcoholic cirrhosis
   - holding nadolol given bleeding
   - continue lactulose titrating to 3 bowel movements per day
   Alcohol Abuse: Last drink one week ago.  Tremulous last night.
   Toxicology screen negative.  No history of DTs or seizures.
   - valium CIWA . Rec
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 7122**] bag overnight.
   - holding acamprosate for now
   Thrombocytopenia: Correlates well to his alcohol use.  On admission in
   the 50s which is close to his baseline of 50s to 100s, but now 29.
   - avoid heparin products
   - monitor platelets
   Recurrent syncope:  Patient reports persistent syncopal episodes the
   week of presentation.  currently being evaluated by Dr. [**Last Name (STitle) 4345**], of
   Cardiology.  He has had multiple EKGs, long-term continuous loop
   monitoring and echocardiogam which have all been within normal limits.
   Per Dr. [**Last Name (STitle) 4345**], no indication for further cardiac testing.  Concern
   that this may be related to alcohol use.
   - continue to monitor
   - will alert Dr. [**Last Name (STitle) 4345**] to patient's admission
   Depression: Stable.
   - continue citalopram and seroquel
   Hypertension: Blood pressures currently in 150s systolic.
   - holding nadolol given GI bleeding
   Iron deficiency anemia:  Baseline hematocrits ranging from 25-30.
   Documented iron deficiency in the past.
   - transfusion goal < 25
   - continue iron supplements
   FEN: IVF for MAP < 65, UOP < 30 cc/hr, replete electrolytes
   aggressively, sips for diet
   Prophylaxis: Pneumoboots
   Access:  2 20  g and 1 18 g peripheral
   Code:  Full (discussed with patient)
   Communication: Patient
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-1-10**] 04:58 PM
   18 Gauge - [**2161-1-10**] 07:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2161-01-11 09:13:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   49 yr old man with history of heavy ETOH abuse, recurrent GI bleeds
   presents with GI bleed
   Last drink 1 week ago, no hx of DTs per him.
   24 Hour Events:
 EKG - At [**2161-1-10**] 06:25 PM
   2 units PRBC
   5 mg Valium overnight for agitation
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-11**] 07:30 AM
   Other medications:
   IV PPI
   Lactulose
   Seroquel
   Zofran
   MVI Folate Thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-11**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 99 (94 - 129) bpm
   BP: 122/68(82) {115/56(71) - 154/87(100)} mmHg
   RR: 20 (15 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,270 mL
                                                                  1,666 mL
   PO:
             TF:
   IVF:
                                                                  2,214 mL
                                                                  1,666 mL
   Blood products:
                                                                    556 mL
   Total out:
                                                                    710 mL
                                                                    710 mL
   Urine:
                                                                    710 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,560 mL
                                                                    956 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.48/30/91.[**Numeric Identifier 96**]/25/0
   Physical Examination
   Gen: sitting up in bed, alert, anxious
   HEENTop clear
   CV: tachy RR
   Chest: CTA bilat
   Abd: soft NT +BS
   Ext: no edema
   Neuro: anxious pressured speech but making sense, no gross CN or motor
   abnomalities
   Labs / Radiology
   9.5 g/dL
   29 K/uL
   131 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.3 mEq/L
   6 mg/dL
   103 mEq/L
   138 mEq/L
   26.5 %
   3.0 K/uL
        [image002.jpg]
                            [**2161-1-10**]  02:16 PM
                            [**2161-1-10**]  05:56 PM
                            [**2161-1-11**]  12:20 AM
                            [**2161-1-11**]  05:00 AM
   WBC
   6.4
   3.0
   Hct
   23.8
   25.9
   26.5
   Plt
   43
   29
   Cr
   0.7
   0.6
   TCO2
   23
   Glucose
   100
   131
   Other labs: PT / PTT / INR:15.2/27.8/1.3, ALT / AST:23/59, Alk Phos / T
   Bili:181/2.1, Amylase / Lipase:47/, Differential-Neuts:76.4 %,
   Lymph:17.9 %, Mono:5.3 %, Eos:0.4 %, Lactic Acid:1.1 mmol/L,
   Albumin:4.2 g/dL, LDH:164 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 .H/O DEPRESSION
 .H/O ESOPHAGEAL VARICES
 .H/O PORTAL HYPERTENSION
   1.  UGIB: Given history of varices, gastropathy and MWT the
   differential diagnosis includes gastritis/gastropathy, MWT, varices,
   PUD. We will RX with  IV PPI, NPO, as per liver service for possible
   EGD. Check q8 HCT Tx for less than 24 or active hemorrhage
   For access he has two 20 guage IVs and one 18 guage IV in place.
   2.  Mixed acid base abnormalities:  resolved with hydration, glucose,
   and electrolyte repletion
 likley due to vomiting, starvation and resp
   alkalosis.
   3. Tachycardia: seems mildly anxious and possible ETOH withdrawl, but
   also concerning that he is still hypovolemic and would favor another
   IVF bolus plus 1 u PRC- trend HR and UOP
 reassess throughout the day
   as may need ongoing resuscitation.
   4.  Alcoholic hepatitis:  Mild transaminitis.  Follow labs without
   further hepatitis viral screen at this time.
   5.  Alcohol abuse:  CIWA scale to monitor for withdrawal, Rx with po/IV
   Valium.  Thiamine/folate/MVI.
   6.  Depression:  Continue current medications.
   7.  Thrombocytopenia:  slightly decreased
 though has low baseline, no
   acute indication for Tx unless falls below 20 or recurrent active
   bleeding.
   ICU Care
   Nutrition: NPO for egd
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-1-10**] 04:58 PM
   18 Gauge - [**2161-1-10**] 07:14 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2161-01-12 07:54:00 Physician Resident Progress Note
Chief Complaint: GI Bleed
   24 Hour Events:
   - seen by the liver team, endoscopy performed which demonstrated grade
   3 esophagitis, and gastropathy of the fundus with no active bleeding
   - 1x melena; recieved 1 unit of blood, Hct stable.
   - Tachycardic to the 110
s most of the day yesterday
   - restarted home dose nadolol.
   - CIWA scale initiated; scored twice this AM; having auditory
   hallucinations
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2161-1-11**] 09:47 PM
   Other ICU medications:
   Midazolam (Versed) - [**2161-1-11**] 12:24 PM
   Fentanyl - [**2161-1-11**] 12:24 PM
   Pantoprazole (Protonix) - [**2161-1-12**] 07:38 AM
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Pt denies chest pain, shortness of breath or
   abdominal pain
   Flowsheet Data as of  [**2161-1-12**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (98.9
   HR: 98 (90 - 134) bpm
   BP: 146/81(98) {116/60(72) - 173/111(126)} mmHg
   RR: 20 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,595 mL
                                                                    148 mL
   PO:
                                                                    300 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,886 mL
                                                                     88 mL
   Blood products:
                                                                    274 mL
   Total out:
                                                                  2,600 mL
                                                                  1,400 mL
   Urine:
                                                                  2,400 mL
                                                                  1,250 mL
   NG:
   Stool:
                                                                    200 mL
                                                                    150 mL
   Drains:
   Balance:
                                                                    995 mL
                                                                 -1,252 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General:  Anxious appearing, diaphoretic
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP flat, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, no rebound tenderness or
   guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro:  Alert and oriented x2 (does not know year: [**2150**]); Having
   auditory hallucinations about his mother outside of his room.
   Labs / Radiology
   42 K/uL
   10.3 g/dL
   116 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   2 mg/dL
   101 mEq/L
   135 mEq/L
   29.6 %
   6.9 K/uL
        [image002.jpg]
                            [**2161-1-10**]  02:16 PM
                            [**2161-1-10**]  05:56 PM
                            [**2161-1-11**]  12:20 AM
                            [**2161-1-11**]  05:00 AM
                            [**2161-1-11**]  01:44 PM
                            [**2161-1-11**]  08:35 PM
                            [**2161-1-12**]  04:45 AM
   WBC
   6.4
   3.0
   6.9
   Hct
   23.8
   25.9
   26.5
   29.8
   30.1
   29.6
   Plt
   43
   29
   36
   39
   42
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   TCO2
   23
   Glucose
   100
   131
   95
   118
   116
   Other labs: PT / PTT / INR:15.3/24.7/1.3,
   ALT / AST:30/64
   Alk Phos / T Bili:157/1.9
   Amylase / Lipase:27/
   Differential-Neuts:76.4 %, Lymph:17.9 % Mono:5.3 %, Eos:0.4 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.7 g/dL
   LDH:256 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Assessment and Plan: 49 year old male with alcoholic cirrhosis and
   multiple admissions for upper gastrointestinal bleeding secondary to
   [**Doctor First Name **] [**Doctor Last Name **] tears and esophagitis/gastritis who presents from home
   with one week of severe nausea, vomiting and coffee ground emesis.
   .
   Upper Gastrointestinal Bleeding:  HCT stable and EGD without visible
   evidence of bleeding in upper GI tract.  Possible that symptoms were
   due to frequent wretching and
   - active type and screen
   - liver consult for potential upper endoscopy
   - NPO for now
   - two units PRBCs now, aim to keep hematocrit > 25
   - IVF and blood for MAP > 65, UOP 30 cc/hr
   - IV PPI [**Hospital1 **]
   - ciprofloxacin 400 mg IV BID for SBP prophylaxis
   .
   Acid Base Status:  ABG with respiratory alkalosis but anion gap is
   currently 26 suggesting a gap acidosis. Delta delta is significantly
   positive suggesting a secondary metabolic alkalosis (hypochloremic,
   hypokalemic likely secondary to vomiting).   Normal lactate.  Large
   acetone suggests alcoholic ketosis vs. starvation ketosis in the
   setting of normal serum glucose.  Negative serum toxicology screen,
   will send urine toxicology.  Serum osms pending.
   - will correct hypokalemia and give normal saline for volume depletion
   - IVF for ketosis with glucose
   - osm gap and urine toxicology pending
   - will check urine toxicology screen
   - will reasses acid base status after IVF
   .
   Alcoholic Hepatitis: History of ascites, SBP and portal vein
   thrombosis. RUQ ultrasound with evidence of patent flow in portal and
   splenic veins.
   - ciprofloxacin for SBP prophylaxis in the setting of GI bleeding
   - will check transaminases, liver function
   - holding nadolol given bleeding
   - continue lactulose titrating to 3 bowel movements per day
   .
   Alcohol Abuse: Last drink one week ago.  Currently still tremulous.
   Toxicology screen negative.  No history of DTs or seizures.
   - valium CIWA
   - thiamine
   - folate
   - multivitamin
   - holding acamprosate for now
   .
   Thrombocytopenia: Correlates well to his alcohol use.  Currently in the
   50s which is close to his baseline of 50s to 100s.
   - avoid heparin products
   - monitor platelets
   .
   Recurrent syncope:  Patient reports persistent syncopal episodes the
   week of presentation.  currently being evaluated by Dr. [**Last Name (STitle) 4345**], of
   Cardiology.  He has had multiple EKGs, long-term continuous loop
   monitoring and echocardiogam which have all been within normal limits.
   Per Dr. [**Last Name (STitle) 4345**], no indication for further cardiac testing.  Concern
   that this may be related to alcohol use.
   - continue to monitor
   - will alert Dr. [**Last Name (STitle) 4345**] to patient's admission
   .
   Depression: Stable.
   - continue citalopram and seroquel
   .
   Hypertension: Blood pressures currently in 150s systolic.
   - holding nadolol given GI bleeding
   .
   Iron deficiency anemia:  Baseline hematocrits ranging from 25-30.
   Documented iron deficiency in the past.
   - transfusion goal < 25
   - continue iron supplements
   .
   FEN: 2 units PRBCs now, IVF for MAP < 65, UOP < 30 cc/hr, replete
   electrolytes aggressively, sips for diet
   .
   Prophylaxis: Pneumoboots
   .
   Access:  2 20  g and 1 18 g peripheral
   .
   Code:  Full (discussed with patient)
   .
   Communication: Patient
   .
   Disposition: ICU care for no
   ICU Care
   Nutrition:  Clears
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-1-10**] 04:58 PM
   18 Gauge - [**2161-1-10**] 07:14 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   Code status: Full code
   Disposition:  transfer to floor.

2161-01-12 12:28:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2161-1-11**] 12:02 PM
   Liver team here to do EGD
   Experiencing some auditory hallucinations (hearing mother's voice).
   Received 1 U PRBC transfusion.
   Experienced melanotic stool overnight.
   Receiving valium for CIWA.
   History obtained from Patient
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2161-1-11**] 09:47 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2161-1-11**] 12:24 PM
   Fentanyl - [**2161-1-11**] 12:24 PM
   Pantoprazole (Protonix) - [**2161-1-12**] 07:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-1-12**] 12:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (98.9
   HR: 92 (89 - 132) bpm
   BP: 134/85(134) {116/60(72) - 173/111(134)} mmHg
   RR: 25 (17 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,595 mL
                                                                    191 mL
   PO:
                                                                    300 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,886 mL
                                                                    131 mL
   Blood products:
                                                                    274 mL
   Total out:
                                                                  2,600 mL
                                                                  1,600 mL
   Urine:
                                                                  2,400 mL
                                                                  1,450 mL
   NG:
   Stool:
                                                                    200 mL
                                                                    150 mL
   Drains:
   Balance:
                                                                    995 mL
                                                                 -1,409 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   42 K/uL
   116 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   2 mg/dL
   101 mEq/L
   135 mEq/L
   29.6 %
   6.9 K/uL
        [image002.jpg]
                            [**2161-1-10**]  02:16 PM
                            [**2161-1-10**]  05:56 PM
                            [**2161-1-11**]  12:20 AM
                            [**2161-1-11**]  05:00 AM
                            [**2161-1-11**]  01:44 PM
                            [**2161-1-11**]  08:35 PM
                            [**2161-1-12**]  04:45 AM
   WBC
   6.4
   3.0
   6.9
   Hct
   23.8
   25.9
   26.5
   29.8
   30.1
   29.6
   Plt
   43
   29
   36
   39
   42
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   TCO2
   23
   Glucose
   100
   131
   95
   118
   116
   Other labs: PT / PTT / INR:15.3/24.7/1.3, ALT / AST:30/64, Alk Phos / T
   Bili:157/1.9, Amylase / Lipase:27/, Differential-Neuts:76.4 %,
   Lymph:17.9 %, Mono:5.3 %, Eos:0.4 %, Lactic Acid:1.1 mmol/L,
   Albumin:3.7 g/dL, LDH:256 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   UGI bleed
   GI BLEED -- attributed to UGI source, possible variceal.  EGD
   unrevealing.  Now s/p 3 u PRBC total.
   CIRRHOSIS -- possible contribution of encephalopathy.  Continue
   lactulose, SBP prophylaxis.
   CONFUSION, HALLUCINATION -- possible EtOH related (DT) - tremor,
   hypertension, tachycardia.  Possible medication related.  Continue
   lactulose.  Check with usual Liver team to assess mental status.
   Consider Psychiatry to evaluate. Continue benzodiazepine.
   NUTRITIONAL SUPPORT -- PO.  MVI, folate, thiamine.
   TACHYCARDIA -- related to hypovolemia, withdrawal of beta-blocker.
   Resume nadalol.
   FLIUDS -- hyovolemia.  Replete.
   DEPRESSION -- continue usual meds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-1-10**] 04:58 PM
   18 Gauge - [**2161-1-10**] 07:14 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2161-01-13 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Yesterday AM, patient started to escalate,  added haldol for
   hallucinations, vitamins and requested social work.
   -Haldol for agitation 2mg po x1 in pm  (qtc 460).
   -At 23:00, alert and oriented x 3, world backwards, no hallucinations
   - 0030, Code purple - threatening staff, refusing to remain in bed;
   received haldol 5 mg iv x1, and transitioned to ativan iv ciwa scale
   and got 2IV x4 since 1am.
   -
   Repeat Hct stable at 32
   -
   Started Cipro 500 [**Hospital1 **] as treatment dose for SBP
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2161-1-12**] 10:37 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-12**] 07:38 AM
   Haloperidol (Haldol) - [**2161-1-13**] 01:03 AM
   Lorazepam (Ativan) - [**2161-1-13**] 03:01 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-13**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 113 (79 - 122) bpm
   BP: 161/102(118) {74/36(45) - 173/123(134)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                    711 mL
                                                                     67 mL
   PO:
                                                                    260 mL
             TF:
   IVF:
                                                                    451 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                      0 mL
   Urine:
                                                                  2,450 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                 -1,889 mL
                                                                     67 mL
   Respiratory support
   SpO2: 96%
   ABG: ////
   Physical Examination
   General:  Sedated but arousable, in 4 point restraints.
   HEENT:PERRL, Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP flat, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes.
   CV: Tachycardic, normal S1 + S2, no murmurs.
   Abdomen:  soft, non-tender, non-distended, no rebound tenderness or
   guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro:  Sedated but opens eyes to voice, follows simple commands, moves
   all 4 extremities, shakes head no to pain.
   Labs / Radiology
   42 K/uL
   10.3 g/dL
   116 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   2 mg/dL
   101 mEq/L
   135 mEq/L
   32.0 %
   6.9 K/uL
        [image002.jpg]
                            [**2161-1-10**]  02:16 PM
                            [**2161-1-10**]  05:56 PM
                            [**2161-1-11**]  12:20 AM
                            [**2161-1-11**]  05:00 AM
                            [**2161-1-11**]  01:44 PM
                            [**2161-1-11**]  08:35 PM
                            [**2161-1-12**]  04:45 AM
                            [**2161-1-12**]  07:27 PM
   WBC
   6.4
   3.0
   6.9
   Hct
   23.8
   25.9
   26.5
   29.8
   30.1
   29.6
   32.0
   Plt
   43
   29
   36
   39
   42
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   TCO2
   23
   Glucose
   100
   131
   95
   118
   116
   Other labs: PT / PTT / INR:15.3/24.7/1.3, ALT / AST:30/64, Alk Phos / T
   Bili:157/1.9, Amylase / Lipase:27/, Differential-Neuts:76.4 %,
   Lymph:17.9 %, Mono:5.3 %, Eos:0.4 %, Lactic Acid:1.1 mmol/L,
   Albumin:3.7 g/dL, LDH:256 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   49 year old male with alcoholic cirrhosis and multiple admissions for
   upper gastrointestinal bleeding secondary to [**Doctor First Name **] [**Doctor Last Name **] tears and
   esophagitis/gastritis who presents from home with one week of severe
   nausea, vomiting and coffee ground emesis.
   .
   # Alcohol Abuse/agitation: Pt states last drink one week ago but per
   mother was the day of admission (3 days ago).  Agitation/Hallucinations
   are consisitent with his prior withdrawls.  Has required 8IV ativan
   overnight, sedated and restrained this AM.
   - Ativan CIWA  and plan to transition back to PO ativan (given liver
   disease) if patient cooperative this PM
   - thiamine,  folate, multivitamin
   - holding acamprosate for now
   - PRN haldol, monitor QTc.
   - social work c/s when patient wakes up, after acute withdrawl.
   .
   # Upper Gastrointestinal Bleeding:  HCT stable and EGD without visible
   evidence of bleeding in upper GI tract.
   - active type and screen
   - Oral PPI [**Hospital1 **] (will make IV while patient is not taking PO)
   - daily HCT unless signs of bleeding
   - guaiac stool
   .
   #   Alcoholic Hepatitis: History of ascites, SBP and portal vein
   thrombosis.  No esophageal varicies on EGD [**1-12**].
   - continue ciprofloxacin 500 [**Hospital1 **] for SBP prophylaxis in the setting of
   bleeding-will make IV while patient is not taking PO.
   - continue nadolol
   - continue lactulose titrating to 3 bowel movements per day , can give
   PR lactulose if needed
   .
   # Thrombocytopenia: stable and consistent with liver disease; currently
   near baseline.
   - avoid heparin products
   - monitor platelets
   .
   # Recurrent syncope:  Patient reports persistent syncopal episodes the
   week of presentation.  currently being evaluated by Dr. [**Last Name (STitle) 4345**], of
   Cardiology.  He has had multiple EKGs, long-term continuous loop
   monitoring and echocardiogam which have all been within normal limits.
   Per Dr. [**Last Name (STitle) 4345**], no indication for further cardiac testing.  also ? of
   autonomic dysfunction vs. peripheral neuropathy in the setting of etoh
   abuse.
   -          continue to monitor
   -          fall precautions
   .
   # Hypertension:  Patient with labile BP [**2-23**] to withdrawls.
   - ativan CIWA for withdrawl.
   - continue to monitor
   .
   # Iron deficiency anemia:  stable
   - transfusion goal : 25
   .
   # FEN: PM lytes given low K and Mg this AM.  replete lytes PRN;
   thiamin, folate;  diet currently clears advance as tolerated.
   .
   #: Prophylaxis: Pneumoboots, PPI, lactulose
   .
   #Code: Full
   .
   #Dispo: ICU until MS improves, withdrawls under control.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-1-10**] 04:58 PM
   18 Gauge - [**2161-1-10**] 07:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-13 12:35:00 Physician Attending Progress Note
Chief Complaint: GI bleed, EtOH withdrawal/DT.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued to experience auditory hallucinations, and continued to
   exhibit beligerant behavior.  Hypertensive and diaphoretic last PM -->
   Code Purple last PM.  Required 4-pt restraints.  Good response to
   pharmacological intervention.
   No seizures.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2161-1-12**] 10:37 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2161-1-13**] 01:03 AM
   Lorazepam (Ativan) - [**2161-1-13**] 03:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-1-13**] 12:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 95 (79 - 122) bpm
   BP: 154/85(102) {74/36(45) - 173/123(126)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                    711 mL
                                                                    124 mL
   PO:
                                                                    260 mL
             TF:
   IVF:
                                                                    451 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                      0 mL
   Urine:
                                                                  2,450 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                 -1,889 mL
                                                                    124 mL
   Respiratory support
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal, Tremulous
   Labs / Radiology
   10.9 g/dL
   52 K/uL
   116 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.2 mEq/L
   4 mg/dL
   104 mEq/L
   141 mEq/L
   32.0 %
   3.5 K/uL
        [image002.jpg]
                            [**2161-1-10**]  02:16 PM
                            [**2161-1-10**]  05:56 PM
                            [**2161-1-11**]  12:20 AM
                            [**2161-1-11**]  05:00 AM
                            [**2161-1-11**]  01:44 PM
                            [**2161-1-11**]  08:35 PM
                            [**2161-1-12**]  04:45 AM
                            [**2161-1-12**]  07:27 PM
                            [**2161-1-13**]  08:16 AM
   WBC
   6.4
   3.0
   6.9
   3.5
   Hct
   23.8
   25.9
   26.5
   29.8
   30.1
   29.6
   32.0
   32.0
   Plt
   43
   29
   36
   39
   42
   52
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   0.5
   TCO2
   23
   Glucose
   100
   131
   95
   118
   116
   116
   Other labs: PT / PTT / INR:15.3/24.7/1.3, ALT / AST:30/64, Alk Phos / T
   Bili:157/1.9, Amylase / Lipase:27/, Differential-Neuts:76.4 %,
   Lymph:17.9 %, Mono:5.3 %, Eos:0.4 %, Lactic Acid:1.1 mmol/L,
   Albumin:3.7 g/dL, LDH:256 IU/L, Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   UGI bleed
   GI BLEED -- attributed to UGI source, possible variceal.  EGD
   unrevealing.  Now s/p 3 u PRBC total.  Stable.
   CIRRHOSIS -- possible contribution of encephalopathy.  Continue
   lactulose, SBP prophylaxis.
   CONFUSION, HALLUCINATION -- possible EtOH related
 DT (tremor,
   hypertension, tachycardia).  Possible medication related.  Continue
   lactulose. Continue benzodiazepine per CIWA scale.
   NUTRITIONAL SUPPORT -- PO.  MVI, folate, thiamine.
   TACHYCARDIA -- related to hypovolemia, withdrawal of beta-blocker.
   Resume nadalol.
   FLUIDS -- hyovolemia.  Replete iv.
   DEPRESSION -- continue usual meds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-1-10**] 04:58 PM
   18 Gauge - [**2161-1-10**] 07:14 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2161-01-14 07:33:00 Physician Resident Progress Note
Chief Complaint: ? GIB, EtOH Withdrawl
   24 Hour Events:
   - hallucinations likeley [**2-23**] EtOH withdrawal (8 mg IV ativan between
   midnight and 8a on [**1-13**]) => pt sedated until about 7pm last evening,
   woke up struggling, given 2mg IV ativan x1, was then cooperative, took
   some PO meds, changed CIWA to PO ativan
   - did not require haldol for agitation
   - repeat K= 3.4, given 40IV K
   History obtained from Patient
   Allergies:
   History obtained from PatientLasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2161-1-13**] 10:33 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2161-1-13**] 07:31 PM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2161-1-14**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 83 (74 - 103) bpm
   BP: 138/80(96) {130/75(91) - 157/89(105)} mmHg
   RR: 14 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,806 mL
                                                                  1,240 mL
   PO:
             TF:
   IVF:
                                                                  1,806 mL
                                                                  1,240 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    750 mL
   Urine:
   750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,806 mL
                                                                    490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): x2- does not know date. Knows month and
   day of week, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed,
   Tone: Normal
   Labs / Radiology
   60 K/uL
   10.5 g/dL
   125 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   2 mg/dL
   106 mEq/L
   138 mEq/L
   30.4 %
   3.3 K/uL
        [image002.jpg]
                            [**2161-1-10**]  05:56 PM
                            [**2161-1-11**]  12:20 AM
                            [**2161-1-11**]  05:00 AM
                            [**2161-1-11**]  01:44 PM
                            [**2161-1-11**]  08:35 PM
                            [**2161-1-12**]  04:45 AM
                            [**2161-1-12**]  07:27 PM
                            [**2161-1-13**]  08:16 AM
                            [**2161-1-13**]  09:57 PM
                            [**2161-1-14**]  05:10 AM
   WBC
   6.4
   3.0
   6.9
   3.5
   3.3
   Hct
   23.8
   25.9
   26.5
   29.8
   30.1
   29.6
   32.0
   32.0
   30.4
   Plt
   43
   29
   36
   39
   42
   52
   60
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   0.5
   0.5
   0.5
   Glucose
   100
   131
   95
   118
   116
   116
   193
   125
   Other labs: PT / PTT / INR:15.3/24.7/1.3, ALT / AST:30/64, Alk Phos / T
   Bili:157/1.9, Amylase / Lipase:27/, Differential-Neuts:76.4 %,
   Lymph:17.9 %, Mono:5.3 %, Eos:0.4 %, Lactic Acid:1.1 mmol/L,
   Albumin:3.7 g/dL, LDH:256 IU/L, Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 .H/O DEPRESSION
 .H/O ESOPHAGEAL VARICES
 .H/O PORTAL HYPERTENSION
   49 year old male with alcoholic cirrhosis and multiple admissions for
   upper gastrointestinal bleeding secondary to [**Doctor First Name **] [**Doctor Last Name **] tears and
   esophagitis/gastritis who presents from home with one week of severe
   nausea, vomiting and coffee ground emesis.
   # Alcohol Abuse/agitation: Pt states last drink one week ago but per
   mother was the day of admission (3 days ago).  Agitation/Hallucinations
   are consisitent with his prior withdrawls.  Has required 8IV ativan
   overnight, sedated and restrained this AM.
   - Ativan CIWA  and plan to transition back to PO ativan (given liver
   disease) if patient cooperative this PM
   - thiamine,  folate, multivitamin
   - holding acamprosate for now
   - PRN haldol, monitor QTc.
   - social work c/s when patient wakes up, after acute withdrawl.
   .
   # Upper Gastrointestinal Bleeding:  HCT stable and EGD without visible
   evidence of bleeding in upper GI tract.
   - active type and screen
   - Oral PPI [**Hospital1 **] (will make IV while patient is not taking PO)
   - daily HCT unless signs of bleeding
   - guaiac stool
   .
   #   Alcoholic Hepatitis: History of ascites, SBP and portal vein
   thrombosis.  No esophageal varicies on EGD [**1-12**].
   - continue ciprofloxacin 500 [**Hospital1 **] for SBP prophylaxis in the setting of
   bleeding-will make IV while patient is not taking PO.
   - continue nadolol
   - continue lactulose titrating to 3 bowel movements per day , can give
   PR lactulose if needed
   .
   # Thrombocytopenia: stable and consistent with liver disease; currently
   near baseline.
   - avoid heparin products
   - monitor platelets
   .
   # Recurrent syncope:  Patient reports persistent syncopal episodes the
   week of presentation.  currently being evaluated by Dr. [**Last Name (STitle) 4345**], of
   Cardiology.  He has had multiple EKGs, long-term continuous loop
   monitoring and echocardiogam which have all been within normal limits.
   Per Dr. [**Last Name (STitle) 4345**], no indication for further cardiac testing.  also ? of
   autonomic dysfunction vs. peripheral neuropathy in the setting of etoh
   abuse.
   -          continue to monitor
   -          fall precautions
   .
   # Hypertension:  Patient with labile BP [**2-23**] to withdrawls.
   - ativan CIWA for withdrawl.
   - continue to monitor
   .
   # Iron deficiency anemia:  stable
   - transfusion goal : 25
   .
   # FEN: PM lytes given low K and Mg this AM.  replete lytes PRN;
   thiamin, folate;  diet currently clears advance as tolerated.
   .
   #: Prophylaxis: Pneumoboots, PPI, lactulose
   .
   #Code: Full
   .
   #Dispo: ICU until MS improves, withdrawls under control.
   ICU Care
   Nutrition: Clear liquids
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2161-1-10**] 04:58 PM
   18 Gauge - [**2161-1-10**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2161-01-14 12:26:00 Physician Attending Progress Note
Chief Complaint: Ethanol withdrawal, delerium tremens.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   More awake.
   States to feel much improved.
   No requirement for benzodiazepines for >12 hrs.
   Hungry.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2161-1-13**] 10:33 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2161-1-13**] 07:31 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-1-14**] 12:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 75 (74 - 101) bpm
   BP: 145/79(96) {130/72(89) - 157/89(105)} mmHg
   RR: 11 (11 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,806 mL
                                                                  1,539 mL
   PO:
             TF:
   IVF:
                                                                  1,806 mL
                                                                  1,539 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    750 mL
   Urine:
   750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,806 mL
                                                                    789 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, date, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   60 K/uL
   125 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   2 mg/dL
   106 mEq/L
   138 mEq/L
   30.4 %
   3.3 K/uL
        [image002.jpg]
                            [**2161-1-10**]  05:56 PM
                            [**2161-1-11**]  12:20 AM
                            [**2161-1-11**]  05:00 AM
                            [**2161-1-11**]  01:44 PM
                            [**2161-1-11**]  08:35 PM
                            [**2161-1-12**]  04:45 AM
                            [**2161-1-12**]  07:27 PM
                            [**2161-1-13**]  08:16 AM
                            [**2161-1-13**]  09:57 PM
                            [**2161-1-14**]  05:10 AM
   WBC
   6.4
   3.0
   6.9
   3.5
   3.3
   Hct
   23.8
   25.9
   26.5
   29.8
   30.1
   29.6
   32.0
   32.0
   30.4
   Plt
   43
   29
   36
   39
   42
   52
   60
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   0.5
   0.5
   0.5
   Glucose
   100
   131
   95
   118
   116
   116
   193
   125
   Other labs: PT / PTT / INR:15.3/24.7/1.3, ALT / AST:30/64, Alk Phos / T
   Bili:157/1.9, Amylase / Lipase:27/, Differential-Neuts:76.4 %,
   Lymph:17.9 %, Mono:5.3 %, Eos:0.4 %, Lactic Acid:1.1 mmol/L,
   Albumin:3.7 g/dL, LDH:256 IU/L, Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   Ethanol withdrawal, delerium tremens.  UGI bleed
   CONFUSION, HALLUCINATION -- attributed to EtOH withdrawal / delerium
   tremens.  Continue benzodiazepine per CIWA scale.
   GI BLEED -- attributed to UGI source, possible variceal.  EGD
   unrevealing.  Now s/p 3 u PRBC total.  Stable.
   CIRRHOSIS -- possible contribution of encephalopathy.  Continue
   lactulose, SBP prophylaxis.
   NUTRITIONAL SUPPORT -- PO.  MVI, folate, thiamine.
   TACHYCARDIA -- resolved.  Attributed to EtOH withdrawal and
   beta-blocker withdrawal.  MOnitor HR.
   FLUIDS -- hyovolemia.  Replete iv.
   DEPRESSION -- continue usual meds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-1-10**] 04:58 PM
   18 Gauge - [**2161-1-10**] 07:14 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 50 minutes
   Patient is critically ill